US07713994B2
To a solution of 4-aminomethyl-1H-pyridin-2-one hydrochloride in 50% aqueous dioxane (100 mL) is added sodium hydroxide (2.8 g, 69 mmol), followed by di-tert-butyldicarbonate (5.0 g, 23 mmol). After stirring overnight at room temperature, the mixture is neutralized with 5% aqueous potassium hydrogen sulfate solution. The mixture is extracted four times with ethyl acetate. The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. A sample of crude material is purified by reverse-phase HPLC to give tert-butyl (2-oxo-1,2-dihydro-pyridin-4-ylmethyl)-carbamate as a straw colored foam.

reactant | 4-aminomethyl-1H-pyridin-2-one hydrochloride | Cl.NCC1=CC(NC=C1)=O
reactant | sodium hydroxide | 69 mmol, 2.8 g | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 23 mmol, 5.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (2-oxo-1,2-dihydro-pyridin-4-ylmethyl)-carbamate | O=C1NC=CC(=C1)CNC(OC(C)(C)C)=O | C11H16N2O3
